US07696352B2
5-Chloro-N-((1-methyl-2-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide (35)
A mixture of 5-chloro-N-((2-(4-iodophenyl)-1-methyl-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide prepared above (14 mg, 0.031 mmol), 2-hydroxypyridine (14 mg, 0.15 mmol), 8-hydroxyquinoline (14 mg, 0.097 mmol) and K2CO3 (30 mg, 0.22 mmol) in DMSO (0.5 mL) was degassed with Argon before being charged with CuI (9 mg, 0.047 mmol). The mixture in a sealed tube was heated at 130° C. overnight. It was then purified by HPLC to give the titled compound (2 mg). MS 425.1 and 427.1 (M+H, Cl pattern).

reactant | 5-chloro-N-((2-(4-iodophenyl)-1-methyl-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide | ClC1=CC=C(S1)C(=O)NCC=1N=C(N(C1)C)C1=CC=C(C=C1)I | C16H13ClIN3OS
reactant | 2-hydroxypyridine | 0.15 mmol, 14 mg | OC1=NC=CC=C1 | C5H5NO
reactant | 8-hydroxyquinoline | 0.097 mmol, 14 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 0.22 mmol, 30 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.047 mmol, 9 mg | [Cu]I
product | 5-Chloro-N-((1-methyl-2-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide | 2 mg | ClC1=CC=C(S1)C(=O)NCC=1N=C(N(C1)C)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C21H17ClN4O2S
